US08558002B2
Trifluoroacetamide (5.43 g, 2 eq), magnesium oxide (3.756 g, 4 eq), and rhodium(II) acetate dimer (309 mg, 0.03 eq) were placed in a 500 mL round-bottom flask. Dichloromethane (230 mL) was added followed by dimethyl 2,2′-sulfinyldiacetate (4.52 g, 23.3 mmol, 1 eq), followed by addition of diacetoxyiodobenzene in small portions (11.257 g, 1.5 eq). The mixture was stirred at room temperature for 7 hours. Following that, an additional 2.2 g of trifluoroacetamide was added followed by the addition of additional amount of rhodium(II) acetate dimer (˜150 mg) and diacetoxyiodobenzene (3.0 g). The reaction mixture was stirred further at room temperature overnight. The mixture was then filtered through a pad of celite and the pad was washed with MeOH—CHCl3 (1:5). The filtrate was concentrated and the oily residue was subject to column chromatography twice (from hexane to EtOAc-Hex 1:1) yielding dimethyl 2,2′-[N-(trifluoroacetyl)sulfonimidoyl]diacetate as a brown oil (7.0 g).

reactant | Trifluoroacetamide | 5.43 g, 2 eq | FC(C(=O)N)(F)F | C2H2F3NO
reactant | magnesium oxide | 3.756 g, 4 eq | [O-2].[Mg+2]
reactant | dimethyl 2,2′-sulfinyldiacetate | 23.3 mmol, 4.52 g, 1 eq | S(=O)(CC(=O)OC)CC(=O)OC | C6H10O5S
reactant | diacetoxyiodobenzene | C(C)(=O)OC=1C(=C(C=CC1)I)OC(C)=O | C10H9IO4
reactant | trifluoroacetamide | 2.2 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | diacetoxyiodobenzene | 3.0 g | C(C)(=O)OC=1C(=C(C=CC1)I)OC(C)=O | C10H9IO4
catalyst | rhodium(II) acetate dimer | 309 mg, 0.03 eq | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
catalyst | rhodium(II) acetate dimer | ˜150 mg | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
solvent | Dichloromethane | 230 mL | ClCCl | CH2Cl2
product | dimethyl 2,2′-[N-(trifluoroacetyl)sulfonimidoyl]diacetate | 7.0 g | FC(C(=O)N=S(=O)(CC(=O)OC)CC(=O)OC)(F)F | C8H10F3NO6S
